US08404859B2
Preparation of 5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carboxylic acid
A mixture of 5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carboxylic acid methyl ester (200 mg, 0.52 mmol), lithium hydroxide monohydrate (220 mg, 5.22 mmol), THF (4 mL) and water (5 mL) was stirred 15 h, acidified with 1N HCl and extracted with EtOAc (×3). The organic extracts were combined, washed with brine, dried over sodium sulfate, filtered and evaporated to give the title compound, 160 mg (83%). MS m/e 370.0 (M+H+).

reactant | 5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carboxylic acid methyl ester | 0.52 mmol, 200 mg | COC(=O)C=1SC(=CC1C(F)(F)F)C(NCC1=C2C=NNC2=CC=C1)=O | C16H12F3N3O3S
reactant | lithium hydroxide monohydrate | 5.22 mmol, 220 mg | O.[OH-].[Li+]
reactant | THF | 4 mL | C1CCOC1 | C4H8O
reactant | HCl | 1N | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 5-[(1H-Indazol-4-ylmethyl)-carbamoyl]-3-trifluoromethyl-thiophene-2-carboxylic acid | N1N=CC2=C(C=CC=C12)CNC(=O)C1=CC(=C(S1)C(=O)O)C(F)(F)F | C15H10F3N3O3S
